US05998433
c) Synthesis of N-(4-phenylbutyl)-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)carboxyamide hydrochloride
N-(4-Phenylbutyl)-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)carboxyamide 0.599 g was dissolved in 2 ml of methanol. To this solution, hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | N-(4-Phenylbutyl)-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)carboxyamide | 0.599 g | C1(=CC=CC=C1)CCCC[N-]C(=O)ON1CC2=C(CC1)C=C(O2)CN(C)C
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N-(4-phenylbutyl)-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)carboxyamide hydrochloride | Cl.C1(=CC=CC=C1)CCCC[N-]C(=O)ON1CC2=C(CC1)C=C(O2)CN(C)C | InChI=1S/C21H29N3O3.ClH/c1-23(2)15-19-14-18-11-13-24(16-20(18)26-19)27-21(25)22-12-7-6-10-17-8-4-3-5-9-17;/h3-5,8-9,14H,6-7,10-13,15-16H2,1-2H3,(H,22,25);1H/p-1
